US04115575
7.5 g of 5-bromo-3-morpholinyl-2-(3'-isopropylamino-2'-hydroxy-propoxy)-pyrazine are dissolved in 80 ml of methanol and hydrogenated in the presence of 0.4 g of palladium on charcoal (5% strength) at 20°-30° C. under normal pressure. After 10 minutes, the reaction is complete and the calculated amount of hydrogen has been taken up. The catalyst is then filtered off and the filtrate is evaporated in a waterpump vacuum. The residue is partitioned between water and ether. The aqueous phase is rendered alkaline with concentrated sodium hydroxide solution and extracted by shaking with ether. The ether extracts are washed with water, dried over sodium sulphate and evaporated in a waterpump vacuum. 3-Morpholinyl-2-(3'-isopropylamino-2'-hydroxy-propoxy)-pyrazine, melting point 74°-76° C., is thus obtained.

reactant | 5-bromo-3-morpholinyl-2-(3'-isopropylamino-2'-hydroxy-propoxy)-pyrazine | 7.5 g | BrC=1N=C(C(=NC1)OCC(CNC(C)C)O)N1CCOCC1 | C14H23BrN4O3
reactant | hydrogen | [H][H] | H2
solvent | methanol | 80 ml | CO | CH4O
catalyst | palladium on charcoal | 0.4 g | [Pd] | Pd
product | 3-Morpholinyl-2-(3'-isopropylamino-2'-hydroxy-propoxy)-pyrazine | N1(CCOCC1)C=1C(=NC=CN1)OCC(CNC(C)C)O | C14H24N4O3
